US09029402B2
To a mixture of compound 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid (180 mg, 0.98 mmol) and sodium hydroxide (80 mg, 2.0 mol) in DMSO (5 mL) was added 0.1 mL of 30% hydrogen peroxide, and the mixture was stirred at room temperature overnight. The reaction mixture was neutralized by 1N HCl to PH=5-6, concentrated, and purified by preparative HPLC to give 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid (29 mg, yield 15.4%) as a solid.

reactant | 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid | 0.98 mmol, 180 mg | N1(C=NC=C1)C1=CC=C(C=C1)C1=C(N(C=C1)CCC(=O)O)C1=C(C=C(C=C1)C#N)C | C24H20N4O2
reactant | sodium hydroxide | 2.0 mol, 80 mg | [OH-].[Na+]
reactant | hydrogen peroxide | 0.1 mL | OO | H2O2
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid | 29 mg, yield 15.4% | N1(C=NC=C1)C1=CC=C(C=C1)C1=C(N(C=C1)CCC(=O)O)C1=C(C=C(C=C1)C(N)=O)C | C24H22N4O3
